US06462036B1
A mixture of 2-benzoylbenzo[b]thiophen-3(2H)-one (1.50 g, supplied by the Maybridge Chemical Company, Tintagel, England) hydrazine hydrate (0.3 ml) and butan-1-ol (50 ml) was boiled under reflux under nitrogen for 7.5 hours. The solvent was removed under reduced pressure and the residue was taken up in ethyl acetate, washed with water, dried, filtered and evaporated to give a solid which was purified by flash column chromatography on silica using toluene/ethyl acetate (7.5:1) as the mobile phase. Appropriate fractions were collected, combined and evaporated to give a solid which was triturated with ether, and filtered to give 3-phenyl-1H-[1]benzothieno[3,2-c]pyrazole, m.p. 236-238° C.

reactant | 2-benzoylbenzo[b]thiophen-3(2H)-one | C(C1=CC=CC=C1)(=O)C1C(C2=C(S1)C=CC=C2)=O | C15H10O2S
reactant | hydrazine hydrate | 0.3 ml | O.NN
solvent | butan-1-ol | 50 ml | C(CCC)O | C4H10O
product | 3-phenyl-1H-[1]benzothieno[3,2-c]pyrazole | C1(=CC=CC=C1)C=1C2=C(NN1)C1=C(S2)C=CC=C1 | C15H10N2S
